US06218390B1
d. 3-[4-(2-Pyridyl)-piperidine-1-yl]propylamine
To 1-benzyl-4-(2-pyridyl)-piperidine (3.26 g, 12.9 mmol) in dry methanol (25 mL), 10% palladium hydroxide (1.9 g) was added and the solution was hydrogenated at 200 psi for 24 hours. The solution was filtered over celite, concentrated to give 2.1 g (99%) of 4-(2-pyridyl)-piperidine which was used as such for the subsequent step. A mixture of 3-bromopropylamine hydrobromide (20 g, 91.3 mmol), potassium carbonate (37.85 g, 273.9 mmol) and di-tert-butyldicarbonate (21.90 g, 100 mmol) in methanol was stirred at room temperature for 24 hours. The reaction mixture was concentrated and partitioned between 250 mL EtOAc and 50 mL water, dried over sodium sulfate, filtered and concentrated. Purification of the crude product by column chromatography (hexane: EtOAc, 4. 5:0.5) gave 17.5 g (80%) of the product as a pale yellow oil. To a stirred solution of the 4-(2-pyridyl)-piperidine (1.86 g, 11.4 mmol) in dioxane (20 mL), N-(tert-butoxycarbonyl)-3-bromopropylamine (2.82 g, 11.4 mmol) and potassium carbonate (3.16 g, 22.9 mmol) were added and the solution was refluxed for 24 hours. The reaction mixture was cooled to room temperature, concentrated and partitioned between 40 mL chloroform and 5 mL water. The organic layer was dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography (ethyl acetate:methanol, 4:1) to yield 1.86 g (49%) of the required product as a colorless oil; 1H-NMR (CDCl3): δ 1.45 (s, 9 H), 1.54-1.69 (m, 8 H), 2.21-2.68 (m, 2 H), 2.74-2.80 (m, 1 H), 3.02-3.22 (m, 4 H), 5.41 ( s, 1 H), 7.13-7.17 (m, 1 H), 7.33 (d, J=7.93 Hz, 1 H), 7.63 (t, J=7.6 Hz, 1 H), 8.54 (d, J=4.6 Hz, 1 H). To N-(tert-butoxycarbonyl)-3-[4-(2-pyridyl)-piperidin-1-yl]propylamine (0.15 g, 0.45 mmol) in 5 mL of dichloromethane, 1 mL of trifluoroacetic acid was added and the solution was stirred at room temperature for 1 hour. The solution was concentrated, neutralized with 10% KOH solution and extracted into 25 mL of dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated to give 0.098 g (100%) of 3-[4-2-pyridyl)-piperidin-1-yl]propylamine which was used as such for the subsequent step.

reactant | 4-(2-pyridyl)-piperidine | 11.4 mmol, 1.86 g | N1=C(C=CC=C1)C1CCNCC1 | C10H14N2
reactant | N-(tert-butoxycarbonyl)-3-bromopropylamine | 11.4 mmol, 2.82 g | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
reactant | potassium carbonate | 22.9 mmol, 3.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(2-Pyridyl)-piperidine-1-yl]propylamine | 1.86 g, 49% | N1=C(C=CC=C1)C1CCN(CC1)CCCN | C13H21N3
